spice
* PMOS Transistors
M1 7 6 7 7 PMOS L=Wp W=Lp
M2 7 22 23 7 PMOS L=Wp W=Lp

* NMOS Transistors
M3 23 3 3 3 NMOS L=Wn W=Ln
M4 4 3 3 3 NMOS L=Wn W=Ln
M5 6 3 3 3 NMOS L=Wn W=Ln

* Current Source
IREF 4 3 DC <value_of_IREF>

* Voltage Source
VDD 7 0 DC <value_of_VDD>

* End of Netlist